US06316444B1
Step F: 2-Methanesulfonyl-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine
To a solution of 2-Methylthio-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine (100 mg, 0.282 mmol) in 1:1 methanol:methylene chloride (7 ml) was added a mixture of Oxone® (520 mg, 0.846 mmol) in water (2 ml) at 0° C. The reaction mixture was stirred at it for 7 h, then diluted with methylene chloride. The mixture was separated; the aqueous layer was extracted with methylene chloride (3×50 ml). The combined methylene chloride layer was dried over magnesium sulfate. Removal of the solvent and subsequent purification by preparative thin layer chromatography eluting with 5% 2N ammonium in methanol:methylene chloride system provided 63 mg of the title compound. Mass spectrum (ESI): 387 (M+1).). 1H NMR (CDCl3): δ8.97 (d, J=5.7 Hz, 1H); 8.71 (s, 1H); 8.26 (d, J=9.1 Hz, 1H); 8.02 (dd, J1=8.9 Hz, J2=2.1 Hz, 1H); 7.85 (d, J=2.0 Hz, 1H); 7.74 (d, J=5.7 Hz, 1H); 3.93 (t, J=8.0 Hz, 2H); 3.56 (t, J=8.0 Hz, 2H); 3.45 (s, 3H); 3.42(q, J=7.3Hz, 2H); 1.23 (t, J=7.3 Hz, 3H).

reactant | 2-Methylthio-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine | 0.282 mmol, 100 mg | CSC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N2C(N(CC2)CC)=O | C17H18N6OS
reactant | methanol | CO | CH4O
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | water | 2 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 2-Methanesulfonyl-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine | 63 mg | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N2C(N(CC2)CC)=O | C17H18N6O3S
